data/mechanism_extracts/JACS/10.1021_jacs.0c13077.json
{"doi": "10.1021_jacs.0c13077", "journal": "JACS", "is_review": false, "rxn_class_summary": "Photoredox/nickel dual-catalyzed three-component HAT-mediated dicarbofunctionalization (DCF) of alkenes, coupling an aryl halide, an activated alkene, and a C-H precursor (ether/alcohol/amide) via a diaryl ketone HAT catalyst.", "mechanism_family": ["photoredox_combined", "radical_polar_crossover", "other"], "electrochemical_role": null, "key_intermediates": [{"name": "Excited triplet diaryl ketone (benzophenone derivative) diradical II", "smiles": null, "role": "reactive"}, {"name": "Ketyl radical III (from HAT)", "smiles": null, "role": "transient"}, {"name": "Carbon-centered alkyl radical IV (alpha to heteroatom from C-H precursor)", "smiles": null, "role": "reactive"}, {"name": "Giese radical adduct VI (alkyl radical after addition to activated alkene)", "smiles": null, "role": "reactive"}, {"name": "Ni(0) complex VII (with dtbbpy ligand)", "smiles": null, "role": "resting_state"}, {"name": "Ni(I)-alkyl complex VIII (from radical capture)", "smiles": null, "role": "transient"}, {"name": "Ni(III)(aryl)(alkyl)(Br) complex IX (after oxidative addition)", "smiles": null, "role": "reactive"}, {"name": "Singlet square-planar Ni(II)(aryl)(Br) complex 1C", "smiles": null, "role": "transient"}, {"name": "Triplet tetrahedral Ni(II)(aryl)(Br) complex 3C", "smiles": null, "role": "reactive"}, {"name": "Ni(III) intermediate X/E (productive tetrahedral, after radical capture)", "smiles": null, "role": "reactive"}, {"name": "Ni(I)-Br complex XI/F (after reductive elimination)", "smiles": null, "role": "transient"}, {"name": "DCF product XII", "smiles": null, "role": "reactive"}], "electron_flow": "Photoexcited diaryl ketone (triplet) abstracts a hydrogen atom from the C-H precursor to give a ketyl radical and an alpha-heteroatom alkyl radical; this radical undergoes Giese addition to the activated alkene, and the resulting stabilized radical is captured by a Ni(0)/Ni(II) species, oxidative addition/isomerization gives a Ni(III) aryl-alkyl intermediate that reductively eliminates the DCF product, and SET from the ketyl radical to Ni(I) regenerates both ground-state catalysts.", "rate_determining_step": "Selectivity-determining (kinetic) step is the competition between radical metalation to tetrahedral 3C (A-TS-B', 11.5 kcal/mol) versus Giese addition to the acrylate (A-TS-D, ~isoenergetic); HAT from C-H precursor by triplet ketone is the productive radical-forming step.", "probe_reagents": [{"name": "i-PrOH-d7 (deuterated isopropanol)", "smiles": "[2H]C([2H])([2H])C(O[2H])([2H])C([2H])([2H])[2H]", "purpose": "KIE", "observation": "Intermolecular competition i-PrOH vs i-PrOH-d7 gave 3.6:1 ratio of 40 to 40-d6, consistent with exothermic radical C-H abstraction"}, {"name": "Irradiation control without benzophenone catalyst 1", "smiles": null, "purpose": "other", "observation": "No DCF product formed at 390 or 300 nm in absence of 1, ruling out direct alkene photoexcitation or bromide photolysis"}, {"name": "Ni(dtbbpy)(NO3)2 with 4-iodobenzonitrile (no Br source)", "smiles": null, "purpose": "intermediate_trap", "observation": "Good yield of DCF product obtained, ruling out bromide-radical-mediated HAT"}, {"name": "1-Cyclopropylethanol (radical clock)", "smiles": "OC(C)C1CC1", "purpose": "radical_clock", "observation": "Major product (77, 44%) is two-component ring-opened cross-coupling with acrylonitrile; with t-Bu acrylate, cyclopropane-containing DCF 75 (38%) and [3+2] adduct 76 (15%) observed, evidencing alpha-cyclopropyl radical ring opening competitive with Giese addition"}, {"name": "CPME (cyclopentyl methyl ether) selectivity probe", "smiles": "COC1CCCC1", "purpose": "other", "observation": "Innate HAT selectivity favors secondary alpha-alkoxy radical; minor primary alpha-alkoxy radical CC byproduct observed"}, {"name": "MgCl2 (chaotrope to disrupt H-bonding)", "smiles": "[Cl-].[Cl-].[Mg+2]", "purpose": "other", "observation": "Addition of MgCl2 restored high selectivity for hydroalkylation of acrylonitrile vs adamantyl acrylate with i-PrOH, attributed to disruption of H-bond between i-PrOH and acrylate"}], "evidence_types_used": ["KIE", "H/D_labeling", "radical_clock", "DFT", "on/off_light_or_current", "isolation_of_intermediate", "other"], "evidence_strength": "strong", "notes": "Two competing Ni pathways were computed: blue pathway (radical addition to singlet square-planar 1C at axial position, A-TS-B, 12.8 kcal/mol) versus favored green pathway (radical addition to triplet tetrahedral 3C at equatorial position, A-TS-B', 11.5 kcal/mol). Alternative Ni(0)/Ni(I)/Ni(III) and Ni(0)/Ni(II)/Ni(III) cycles are both energetically feasible and converge on singlet 1C. DCF vs two-component CC selectivity is kinetically controlled by the relative energies of metalation (A-TS-B') vs Giese addition (A-TS-D), strongly modulated by hydrogen bonding between alpha-hydroxy radicals and acrylate carbonyl (locks hydroxyl orientation in Ni(III) intermediate 66 toward C=O, favoring reductive elimination/DCF). Tertiary radicals favor exclusive Giese/DCF (no direct metalation). DLPNO-CCSD(T)/def2-TZVPP//(U)B3LYP-D3/def2-SVP-CPCM(benzene) used for energetics."}
